* FILE: MMI_XOR2A.sp


* SPICE netlist for "MMI_XOR2A" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_XOR2A in0 in1 out 
MMMI_NOR2A._0 net_1 in0 gnd gnd n W='0.46*1u' L=ln_min ad='arean(0.46,sdd)' 
+ as='arean(0.46,sdd)' pd='perin(0.46,sdd)' ps='perin(0.46,sdd)'
MMMI_NOR2A._1 net_1 in1 gnd gnd n W='0.46*1u' L=ln_min ad='arean(0.46,sdd)' 
+ as='arean(0.46,sdd)' pd='perin(0.46,sdd)' ps='perin(0.46,sdd)'
MMMI_NOR2A._2 net_1 in0 MMI_NOR2A%net_1 vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
MMMI_NOR2A._3 MMI_NOR2A%net_1 in1 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
MMMI_AOI21A._4 out net_1 gnd gnd n W='0.46*1u' L=ln_min 
+ ad='arean(0.46,sdd)' as='arean(0.46,sdd)' pd='perin(0.46,sdd)' 
+ ps='perin(0.46,sdd)'
MMMI_AOI21A._5 out in1 MMI_AOI21A%net_1 gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
MMMI_AOI21A._6 MMI_AOI21A%net_1 in0 gnd gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
MMMI_AOI21A._7 out net_1 MMI_AOI21A%net_2 vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
MMMI_AOI21A._8 MMI_AOI21A%net_2 in0 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
MMMI_AOI21A._9 MMI_AOI21A%net_2 in1 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
*.ENDS	$ MMI_XOR2A

