* FILE: MMI_XOR2C.sp


* SPICE netlist for "MMI_XOR2C" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_XOR2C in0 in1 out 
MMMI_AOI21C._0 out net_1 gnd gnd n W='1.84*1u' L=ln_min 
+ ad='arean(1.84,sdd)' as='arean(1.84,sdd)' pd='perin(1.84,sdd)' 
+ ps='perin(1.84,sdd)'
MMMI_AOI21C._1 out in1 MMI_AOI21C%net_1 gnd n W='3.68*1u' L=ln_min 
+ ad='arean(3.68,sdd)' as='arean(3.68,sdd)' pd='perin(3.68,sdd)' 
+ ps='perin(3.68,sdd)'
MMMI_AOI21C._2 MMI_AOI21C%net_1 in0 gnd gnd n W='3.68*1u' L=ln_min 
+ ad='arean(3.68,sdd)' as='arean(3.68,sdd)' pd='perin(3.68,sdd)' 
+ ps='perin(3.68,sdd)'
MMMI_AOI21C._3 out net_1 MMI_AOI21C%net_2 vdd p W='7.36*1u' L=lp_min 
+ ad='areap(7.36,sdd)' as='areap(7.36,sdd)' pd='perip(7.36,sdd)' 
+ ps='perip(7.36,sdd)'
MMMI_AOI21C._4 MMI_AOI21C%net_2 in0 vdd vdd p W='7.36*1u' L=lp_min 
+ ad='areap(7.36,sdd)' as='areap(7.36,sdd)' pd='perip(7.36,sdd)' 
+ ps='perip(7.36,sdd)'
MMMI_AOI21C._5 MMI_AOI21C%net_2 in1 vdd vdd p W='7.36*1u' L=lp_min 
+ ad='areap(7.36,sdd)' as='areap(7.36,sdd)' pd='perip(7.36,sdd)' 
+ ps='perip(7.36,sdd)'
MMMI_NOR2B._6 net_1 in0 gnd gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)'
MMMI_NOR2B._7 net_1 in1 gnd gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)'
MMMI_NOR2B._8 net_1 in0 MMI_NOR2B%net_1 vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
MMMI_NOR2B._9 net_1 in0 MMI_NOR2B%net_2 vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
MMMI_NOR2B._10 MMI_NOR2B%net_1 in1 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
MMMI_NOR2B._11 MMI_NOR2B%net_2 in1 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
*.ENDS	$ MMI_XOR2C

